Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
morphine / Iodinated Contrast Media - IV Dye
 
Attending: ___
 
Chief Complaint:
T9 Lesion.
 
Major Surgical or Invasive Procedure:
___ T7-T11 Fusion w T8-T10 lami for spinal mass resection

 
History of Present Illness:
___ is a ___ year old female with a PMHx of Breast CA
s/p right lumpectomy including lypmhnodes who was transferred to
___ after an outpatient MRI of the T Spine was performed and
was consistent with a T9 Mass. The patient states that she has
had progressive weakness since ___ and saw her PCP who
ordered MRIs of the T and L spine for further workup. The MRI of
the L spine was noted to have aortic and liver lesions which 
were
not thought to be metastatic disease after work up with the
patients PCP and oncologist. The patient states that she
previously worked as a CNA and used to walk over 5 miles per day
although has been ambulating with a rolling walker most 
recently.
The patient also reported that her legs feel "heavy" and also
reported that "they often feel spongy and I can't tell where in
space they are and if I'm not looking at my feet I trip and
fall". The patient states the she was put on Gabapentin for
neuropathy pain over ___ year ago, although states the pain has
worsened and she has been taking ASA, ibuprofen and Tylenol for
pain control. After the patient arrived at ___, Neurosurgery
was consulted for further evaluation and recommendation. On exam
the patient denied chest pain, SOB, fevers, chills, diplopia,
burred vision or dizziness. She was admitted for close 
monitoring with a plan for resection of the thoracic lesion 
later this week. 
 
Past Medical History:
PMHx: HTN, HLD, Breast CA (___) Right lumpectomy and lymphnodes
s/p radiation and tamoxifen, ulcerative colitis s/p colectomy
with J-pouch, kidney stones, tonsillectomy, appendectomy,
Hysterectomy ___ fibroid tumors. 
 
Social History:
___
Family History:
Family Hx: NC

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T:97.7  BP:135/94    HR:77    R:14       O2Sats: 98% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  4-3 mm bilaterally EOMs intact
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T      IP    Q    H     AT    ___    G
R     5    5     5      3     5    3     5      5     5
L     5    5     5      3     5    4     5      5     5

Sensation: Patient reports hypersensitivity to proximal RLE,
reports decreased sensation to distal RLE.  

Negative hoffmans and clonus

Propioception-Not intact- Patient unable to determine position 
of
great toe.

Toes up-going bilaterally.

Rectal exam normal sphincter control (Per report of OSH)
Denies Saddle anesthesia.

MRI T-Spine    ___  (OSH)
T9 Mass with cord compression and associated cord edema. 

PHYSICAL EXAMINATION ON DISCHARGE: 
___: AOx3, PERRL 3-2 mm bilateral, BUE ___

      D    B     T     G   IP    Q    H     AT    ___    G
R     5    5     5     5   4+    5    5     5     5      5
L     5    5     5     5   4+    5    5     4+    5      5

 
Pertinent Results:
MRI Lumbar Spine: ___
1. Re-identified is a 3.5 cm expansile mass centered in the left 
T9 posterior elements, resulting in severe spinal canal 
narrowing with compression of the cord and underlying cord 
signal edema pattern.  There is also severe left T9-T10 neural 
foraminal narrowing. 
2. The mass demonstrates central hypo enhancement compatible 
with necrosis. 
3. No other suspicious osseous lesions are identified in the 
visualized 
thoracolumbar spine. 
4. Mild degenerative changes as described above. 
5. Nonspecific 1.2 cm rounded left common iliac lymph node, 
suspicious given its rounded morphology.  Likely splenule is 
also identified.  Recommend an CT abdomen and pelvis for further 
evaluation. 

CT  Thoracic Spine: ___
IMPRESSION: 
1. Known T9 vertebral body metastasis causes severe bony 
vertebral canal 
stenosis with probable impingement on the spinal cord.  
Correlate with 
concurrent MRI examination for a more detailed discussion of 
spinal cord 
involvement. 
2. No pathologic fractures or new, suspicious osseous lesions. 

___ Chest xray 
IMPRESSION:    
No acute cardiopulmonary process. 

___ Chest xray
IMPRESSION:   
There is no pneumothorax or pneumomediastinum.  There is linear 
atelectasis or scarring in both lung bases.  The left 
hemidiaphragm is obscured and there could be atelectasis/ 
consolidation at the left base. 
Postoperative changes are present with fixation rods noted in 
the lower 
thoracic region.  Dedicated thoracic spine films were not 
obtained in this 
protocol. 

___ Xray abdomen
IMPRESSION:    
Stacked dilated loops of small bowel, measuring up to 3.4 cm, 
with air-fluid levels concerning for small bowel obstruction. 

___ CT abdomen and pelvis
1. Diffusely dilated small bowel up to and including the 
J-pouch, compatible with ileus. 
2. Status post resection of T9 epidural mass, with spinal 
instrumentation 
spanning T8-T11. 
3. 1.5 cm nodular lesion at the aortic bifurcation, incompletely 

characterized.  Diagnostic considerations range from cystic 
lesion, such as retroperitoneal cyst or postoperative 
lymphocele, to a solid mass, such as atypical lymph node or 
organ of Zuckerkandl lesion.  MRI recommended for further 
evaluation. 
4. Small paraumbilical Richter hernia, with no associated 
obstruction. 
5. Multiple hypodense lesions within the liver, likely 
representing cysts, 
though these are incompletely characterized.  Small volume 
perihepatic 
ascites. 
6. Small nonobstructing left renal calculus. 
7. Small bilateral pleural effusions.  Near complete collapse of 
the left 
lower lobe, as well as submental atelectasis of the right lower 
lobe. 

 
Brief Hospital Course:
The patient was transferred to ___ from ___ 
with a T9 mass. She was admitted to the floor and the 
pre-operative work-up started. 

On ___, the patient's neurologic examination remained stable. 
She underwent a MRI and a CT scan. Her BUN was 24 and she 
received a 500mL bolus of NS. 

On ___ the patient was taken to the operating room with Dr. 
___ underwent a T7-T11 Fusion w T8-T10 laminectomy for 
spinal mass resection. The procedure went well and the patient 
recovered in the PACU. The patient remained flat for 24 hours. 

On ___, the patient went to the OR for laminectomy, fusion, and 
resection of T9 mass.  She tolerated the procedure well and was 
transported to the floor.

On ___, the patient reported improved sensation in her RLE.  
She spike a fever with TMax of 102.8 and work up was concerning 
for LLL pneumonia.  She was started on triple antibiotics for 
HCAP coverage and ID was consulted.

On ___, the patient was seen by ID who recommended continuing 
Cefepime and Vancomycin IV for HCAP coverage.

On ___, the patient remained stable.  Her pain regimen was 
adjusted, tramadol was discontinued and PRN Oxycodone was 
started with good effect.  ID recommended continuing the current 
antibiotics for a total for 7 days.  She was evaluated by ___ who 
recommended rehab placement.

On ___, the patient remained neurologically stable. In the 
early AM she vomited large amount of emesis and a KUB was 
ordered. She also had oral thrush per nurse and she was started 
nystatin SSP. She was straight cathed x1 for urinary retention. 
Her bowel regimen was increased. On am labs her Hgb & Hct 
dropped to 7.7 and 24.3. A CBC recheck showed the Hgb, Hct was 
stably low. She vomited again and was ordered an enema x1. The 
KUB was consistent with a small bowel obstruction. A CT abdomen 
and pelvis was ordered. ACS was consulted. She continued to 
vomit and have urinary retention. Reglan was added for nausea. A 
foley was reinserted for retention. An NGT was inserted and put 
to continuous low wall suction. A stool for guaiac was positive 
so she was started on IV Protonix. She was noted to have 
decreased rectal tone. A lactate was ordered and we will 
continue to monitor her electrolytes. 

On ___, the patient remained neurologically stable. ACS 
requested to check a lactate, level 0.8. NGT placement confirmed 
with radiology. Patient received 450ml of PO contrast. She felt 
nauseous and Zofran was given with good effect. Her CT of the 
abdomen is consistent with ileus and she continues on NGT to 
continuous low wall suction. No occult bleeding noted. Hgb and 
Hct are trending up. We will continue to monitor. Her K and Mg 
were repleted and we are rechecking her labs at 6pm tonight. Her 
IV fluids were changed to D51/2NS20mEqK. The patient continues 
with pain. IV dilaudid was decreased and IV Tylenol x1 was 
given. The patient was OOB to chair and tolerating well. She 
received an enema and her daily suppository. She sat on the 
commode without bowel movement however has + flatus. Her rectal 
tone is intact. Her husband was called with updates. 

On ___, Ms. ___ remained neurologically and hemodynamically 
stable. The majority of her medical management now revolves 
around her unfortunate ileus formation. General surgery has been 
consulted and providing recommendations, including NPO, NGT to 
low wall suction, mobilization, and enemas. The patient abdomen 
is distended, but with bowel sounds and she is passing flatus. 

On ___ the patients neurological exam remained stable. The 
patient reported that she was passing flatus over night. On 
morning evaluation her morning labs were potassium 3.2, and this 
was repleted with 40 meq of potassium chloride in 500ml NS. The 
patients ___ tube was removed by the ___ team and the 
patinets diet was advanced to Sips to clears. The patient had 2 
bowel movements with assistance of an enema. The patient 
continued on Vancomycin and Cefepime for HCAP and will complete 
a course until ___. The patients hemaglobin and hematocrit 
was slowly downtrending and was 7.5/23.8, and her INR was 1.6. 
GI was consulted, and an afternoon repeat H&H was ordered. On 
afternoon evaluation of the patient she appeared to be less pale 
and was sitting in a chair. The patient reported "I feel 
better". Vital signs were assessed and she was not tachycardic 
or hypotensive. The GI team had recommended that Iron studies 
are added on to morning labs and attributed the patients 
elevated INR and low H&H to antibiotic use and poor nutrition. 
Repeat labs were ordered for the morning.  

___, the patient was tolerating ice chips and her diet was 
advanced to clears which was tolerated well. Her potassium was 
repleted. Her foley catheter was discontinued. 

___, the patient finished her course of antibiotics. Her 
phosphate was repleted. Her advanced diet continued to be 
tolerated well as she was moving her bowels. 
 
___, the patient was dispo'd to rehab and waiting for placement. 
She was a tolerating diet. Her potassium was repleted. A four 
point hematocrit drop was noted from 22 from 26 and then 
rebounded to 24. A repeat order for stools to be guaiac'd was 
placed.

On ___ the patient remained hemodynamically and neurologically 
stable. The patients Hemoglobin and hematocrit were ___ on 
morning evaluation. The patient was asymptomatic and stated she 
has had similar episodes in the past and attributed it to her GI 
surgery in ___. The patient was instructed to notify the rehab 
facility immediately if she became symptomatic. She was educated 
on the symptoms of anemia. The patients staples were removed. 
She was cleared for discharge to rehab by the Neurosurgery 
service and the patient was in agreement with this plan. She was 
given follow up instructions. 

 
Medications on Admission:
Lisinopril, simvastatin, MVI, camcium with D, vitamin B12, 
Vitamin B1, Magnesium, gabapentin

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
2. Diazepam 2 mg PO Q6H:PRN muscle spasm 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 100 mg PO BID 
5. Gabapentin 300 mg PO QHS 
6. Heparin 5000 UNIT SC BID 
7. Lisinopril 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
10. Polyethylene Glycol 17 g PO DAILY 
11. Psyllium Powder 1 PKT PO BID 
12. Senna 17.2 mg PO BID Constipation 
13. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
T9 Spinal Mass.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions

Spinal Fusion

Surgery
• Your staples were removed while you were in the hospital. 
• Do not apply any lotions or creams to the site. 
• Please avoid swimming for two weeks after staple removal.
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• No contact sports until cleared by your neurosurgeon. 
• Do NOT smoke. Smoking can affect your healing and fusion.

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• New weakness or changes in sensation in your arms or legs.

Anemia:
• Your hemoglobin and hematocrit were low while you were at 
___. You were not symptomatic as you remained normotensive, 
were not tachycardic, dizzy or lightheaded therefore you were 
not given a blood transfusion. You expressed you have had anemia 
in the past which was attributed to your GI history. 

• While you were inpatient you had a postoperative ileus. You 
had an NG tube which was later discontinued and your diet was 
advanced. You were moving your bowels and tolerating an oral 
diet prior to discharge to rehab. 
 
Followup Instructions:
___